US04772600
2-(3,4-Dichlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
Under nitrogen bubbling, a mixture of 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.5 g, 0.011 mole) and 1,1'-carbonyldiimidazole (1.95 g, 0.011 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 2 hrs, then heated at 60°-65° C. for 2 hrs. N,N-Dimethylaminoethylamine (1.06 g, 0.012 mole) was added and the reaction mixture was allowed to stir at room temperature. The reaction mixture was filtered and the filtrate was evaporated to dryness, then placed under high vacuum overnight. The solid was treated with ice water, collected by filtration, washed with water, and dried under high vacuum at 50° overnight. The solid was dissolved in acetone and acidified with ethanolic hydrogen chloride. The crystalline precipitate was collected by filtration, washed with cold acetone, and dried under high vacuum to give 3.61 g. The solid was dissolved in 1.2 liters of acetone and concentrated to 600 ml to initiate crystallization. The solid was collected by filtration, washed with acetone, and dried under high vacuum overnight at 50° C. to give 1.9 g of title compound, mp 120°-122° C.

reactant | 2-(3,4-dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.011 mole, 3.5 g | ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H9Cl2N3O2
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-Dimethylaminoethylamine | 0.012 mole, 1.06 g | CNN(NC)CC | C4H13N3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | acetone | 1.2 liters | CC(=O)C | C3H6O
product | 2-(3,4-Dichlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | 1.9 g | Cl.ClC=1C=C(C=CC1Cl)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | InChI=1S/C18H19Cl2N5O.ClH/c1-24(2)9-8-21-16(26)11-25-17(12-5-6-13(19)14(20)10-12)23-15-4-3-7-22-18(15)25;/h3-7,10H,8-9,11H2,1-2H3,(H,21,26);1H
